US05376647
A mixture of N-[2-(2-pyrimidinylthio)ethyl]phthalimide (17.1 g), hydrazine hydrate (21 g) and ethanol (200 ml) was stirred for one hour under reflux. The crystals separated was filtered off, and the filtrate was concentrated under reduced pressure to obtain 2-(2-pyrimidinylthio)ethylamine (6.6 g 71%) as an oil.

reactant | N-[2-(2-pyrimidinylthio)ethyl]phthalimide | 17.1 g | N1=C(N=CC=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H11N3O2S
reactant | hydrazine hydrate | 21 g | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2-pyrimidinylthio)ethylamine | 6.6 g, 71% | N1=C(N=CC=C1)SCCN | C6H9N3S
